US08748442B2
To a cold solution of intermediate 2 (385 mg) in THF (6.0 ml) at 0° C. and under argon, was added a solution of lithium aluminum hydride (880 μl, 2.0 M in THF). The mixture was removed from the ice bath and stirred at room temperature for 2 h. Upon completion of the reaction, the mixture was cooled to 0° C. and sequentially treated with water (70 μl), 15% sodium hydroxide solution in water (130 μL), and water (70 μl). The resulting precipitate was removed by filtration. The filtrate was concentrated under vacuum to give (1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-pyrazol-5-yl)methanol as white solid. In a separate flask, (1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-pyrazol-5-yl)methanol (113 mg), lithium chloride (33.8 mg), triethylamine (0.1 ml), and THF were combined (2.0 ml) and cooled to 0° C. To this mixture, was added methanesulfonyl chloride (120 μl). The mixture was gradually warmed to ambient temperature over the course of 16 h. The mixture was diluted with ethyl acetate (100 ml), washed with saturated solution of sodium bicarbonate (20 ml), and brine (20 ml). The organic layer was dried, filtered, and evaporated to give 2-(5-(chloromethyl)-1-(2-fluorobenzyl)-1H-pyrazol-3-yl)pyridine as crude yellow solid. This crude solid (115 mg) was dissolved in THF (1.9 ml) in a separate flask equipped with a stir bar and a balloon filled with argon. The mixture was cooled to 0° C. To this mixture, was added dropwise, a solution of Superhydride (1.1 ml, 1.0 M in THF). The mixture was removed from the ice bath and stirred at room temperature for 24 h. Upon completion of the reaction, the mixture was cooled to 0° C. and sequentially treated with water (120 μl), 15% sodium hydroxide solution in water (240 μL), and water (120 μl). The resulting mixture was diluted in chloroform (100 ml) and washed with brine (50 ml). The organic layer was dried, filtered, and evaporated to give crude solid. The crude solid was purified using SiO2 chromatography (ethyl acetate/hexanes) to give I-55 as off-white solid (44.6% yield over three steps). 1H NMR (400 MHz, CDCl3) δ 8.63-8.59 (m, 1H), 7.93-7.89 (m, 1H), 7.68 (td, 1H), 7.27-7.20 (m, 1H), 7.19-7.14 (m, 1H), 7.09-7.01 (m, 2H), 6.93-6.88 (m, 1H), 6.71 (s, 1H), 5.42 (s, 2H), 2.27 (s, 3H) ppm.

reactant | (1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-pyrazol-5-yl)methanol | 113 mg | FC1=C(CN2N=C(C=C2CO)C2=NC=CC=C2)C=CC=C1 | C16H14FN3O
reactant | lithium chloride | 33.8 mg | [Cl-].[Li+]
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 120 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-(5-(chloromethyl)-1-(2-fluorobenzyl)-1H-pyrazol-3-yl)pyridine | 44.6% yield | ClCC1=CC(=NN1CC1=C(C=CC=C1)F)C1=NC=CC=C1 | C16H13ClFN3
